US06660744B1
A mixture of 4-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol (0.202 g, 0.684 mmol, 1 equiv), 3-nitrophenylboronic acid (0.571 g, 3.42 mmol, 5.0 equiv), copper (II) acetate (0.186 g, 1.02 mmol, 1.5 equiv), and 4 Å molecular sieves in pyridine (0.28 mL) and dichloroethane (6.8 mL) was heated at reflux for 24 h. The reaction mixture was allowed to cool to ambient temperature. Dichloromethane (25 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite with the aid of MeOH (20 mL). The filtrate was concentrated to afford a brown liquid which was purified by column chromatography over silica gel (elution with 400 mL of heptane, 400 mL of 10% EtOAc/heptane, 400 mL of 20% EtOAc/heptane, and 800 mL of MeOH) to afford a red oil which was further purified by preparative RP-LC/MS (Gilson-Micromass C18, 5 μm, 130 Å, 21 cm, 0%-100% acetonitrile-0.1M ammonium acetate over 9 min, 25 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give 1-cyclopentyl-3-[4-(3-nitrophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a pale yellow solid (0.034 g, 0.081 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.22 (1H, s), 7.28-7.74 (6H, m), 7.18 (2H, d, J=8.6 Hz), 7.7 (2H, bs), 5.13-5.26 (1H, m), 2.02-2.10 (4H, m), 1.89-1.91 (2H, m), 1.68-1.70 (2H, m); RP-HPLC (Hypercil C18, 5 μm, 100 Å, 15 cm; 5%-100% acetonitrile-0.1M ammonium acetate over 15 min, 1 mL/min) Rt 19.98 min. MS: MH+ 417.

reactant | 4-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | 0.684 mmol, 0.202 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)O)C2CCCC2 | C16H17N5O
reactant | 3-nitrophenylboronic acid | 3.42 mmol, 0.571 g, 5.0 equiv | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | dichloroethane | 6.8 mL | ClC(C)Cl | C2H4Cl2
reactant | Dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.28 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 1.02 mmol, 0.186 g, 1.5 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-cyclopentyl-3-[4-(3-nitrophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.081 mmol, 0.034 g | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC(=CC=C2)[N+](=O)[O-] | C22H20N6O3
